US09447106B2
A solution of 2-((1-benzyl-1H-pyrazol-4-yl)(hydroxy)methylene)malononitrile (26.5 g, 106 mmol) in CH(OMe)3 (250 mL) was heated to 75° C. for 16 hr. Then the solution was concentrated. The residue was washed with MeOH (50 mL) to give 14.5 g (51.8%) of 2-((1-benzyl-1H-pyrazol-4-yl)(methoxy)methylene)malononitrile as an off-white solid. 1H NMR (DMSO-d6) δ 8.71 (s, 1H), 8.08 (s, 1H), 7.42-7.24 (m, 5H), 5.46 (s, 2H), 4.12 (s, 3H). MS (ESI) m/e [M+1]+ 264.9.

reactant | 2-((1-benzyl-1H-pyrazol-4-yl)(hydroxy)methylene)malononitrile | 106 mmol, 26.5 g | C(C1=CC=CC=C1)N1N=CC(=C1)C(=C(C#N)C#N)O | C14H10N4O
reactant | CH(OMe)3 | 250 mL | C(OC)(OC)OC | C4H10O3
product | 2-((1-benzyl-1H-pyrazol-4-yl)(methoxy)methylene)malononitrile | 14.5 g, 51.8% | C(C1=CC=CC=C1)N1N=CC(=C1)C(=C(C#N)C#N)OC | C15H12N4O
